US07943652B2
(R)-2-[4-((E)-2-Methoxycarbonyl-vinyl)-phenyl]-pyrrolidine-1-carboxylic acid tert-butyl ester (2.4 g, 7.242 mmol) was dissolved in ethanol (100 mL), and wet 10% Pd/C added. The reaction mixture was placed under an atmosphere of hydrogen for 4 hrs (Parr apparatus, 25 psi) then filtered through a plug of celite and concentrated to dryness to give (R)-2-[4-(2-methoxycarbonyl-ethyl)-phenyl]-pyrrolidine-1-carboxylic acid tert-butyl ester as a colorless oil (2.4 g, 7.2 mmol, >99% yield).

reactant | (R)-2-[4-((E)-2-Methoxycarbonyl-vinyl)-phenyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 7.242 mmol, 2.4 g | C(C)(C)(C)OC(=O)N1[C@H](CCC1)C1=CC=C(C=C1)\C=C\C(=O)OC | C19H25NO4
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | (R)-2-[4-(2-methoxycarbonyl-ethyl)-phenyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 7.2 mmol, 2.4 g, >99% yield | C(C)(C)(C)OC(=O)N1[C@H](CCC1)C1=CC=C(C=C1)CCC(=O)OC | C19H27NO4
